US06818774B2
2-[6-(3-Fluoro-benzyloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-propionamide
To a mixture of 6-(3-fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline (0.200 g, 0.78 mmol) and potassium carbonate (0.215 mg, 1.56 mmol) in acetone, 2-bromo-propionamide (0.142 mg, 0.936 mmol) was added and the resulting mixture was stirred overnight at room temperature. The mixture, after filtration and evaporation, was purified by chromatography (SiO2, hexane/Et2O 3:2 v:v) to give the title compound as a white solid (0.189 g, 74%). MS: m/e=329.3 (M+H+).

reactant | 6-(3-fluoro-benzyloxy)-1,2,3,4-tetrahydro-isoquinoline | 0.78 mmol, 0.200 g | FC=1C=C(COC=2C=C3CCNCC3=CC2)C=CC1 | C16H16FNO
reactant | potassium carbonate | 1.56 mmol, 0.215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-propionamide | 0.936 mmol, 0.142 mg | BrC(C(=O)N)C | C3H6BrNO
solvent | acetone | CC(=O)C | C3H6O
product | 2-[6-(3-Fluoro-benzyloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-propionamide | 0.189 g, 74% | FC=1C=C(COC=2C=C3CCN(CC3=CC2)C(C(=O)N)C)C=CC1 | C19H21FN2O2
